US06403595B1
To a solution of 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-2-piperazinone (2.5 g) and triethylamine (1.7 g) in dichloromethane (35 ml) was added at 0° C. a solution of chloromethanesulfonyl chloride (1.26 g) in dichloromethane (2 ml), and the mixture was stirred at room temperature for 30 minutes. The reaction solution was washed with water, 10% citric acid solution and brine, dried and concentrated, and the residue was purified with silica gel column chromatography (ethyl acetate) to give colorless syrup of 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-4-(chloromethanesulfonyl)-2-piperazinone (2.47 g).

reactant | 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-2-piperazinone | 2.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CNCC1)=O | C15H27N3O3
reactant | triethylamine | 1.7 g | C(C)N(CC)CC | C6H15N
reactant | chloromethanesulfonyl chloride | 1.26 g | ClCS(=O)(=O)Cl | CH2Cl2O2S
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-4-(chloromethanesulfonyl)-2-piperazinone | 2.47 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CN(CC1)S(=O)(=O)CCl)=O | C16H28ClN3O5S
